US05800733
3.38 g of dicyclohexylcarbodiimide in 5 ml of dichloromethane was added dropwise while stirring at 0°-5° C. within 5 minutes to a solution of 6.2 g of 6-[4'-[trans-4-(2-[1,3]dioxolan-2-yl ethyl)cyclohexyl]-biphenyl-4-yloxy]-hexan-1-ol, 1.48 g of acrylic acid and 1.67 g of 4-dimethylamino-pyridine in 50 ml of dichloromethane. The reaction mixture was stirred overnight, filtered and then concentrated. Chromatography of the residue on silica gel with cyclohexane/ethyl acetate (vol. 8:2) gave 5.14 g of 6-[4'-[trans-4-(2-[1,3]dioxolan-2-yl-ethyl)-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate.

reactant | dicyclohexylcarbodiimide | 3.38 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6-[4'-[trans-4-(2-[1,3]dioxolan-2-yl ethyl)cyclohexyl]-biphenyl-4-yloxy]-hexan-1-ol | 6.2 g | O1C(OCC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCO | C29H40O4
reactant | acrylic acid | 1.48 g | C(C=C)(=O)O | C3H4O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylamino-pyridine | 1.67 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-[4'-[trans-4-(2-[1,3]dioxolan-2-yl-ethyl)-cyclohexyl]-biphenyl-4-yloxy]-hexyl acrylate | 5.14 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC1OCCO1 | C32H42O5
